US07141561B2
1-(4-Methoxyphenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-(2,2-dimethoxyethyl)-3-(4-methoxyphenyl)-1-(4-phenoxy-phenyl)urea (6.8 g) in trifluoroacetic acid (20 ml) was left to stand for 16 hours and then neutralized with saturated sodium carbonate solution. The mixture was extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. The product with the molecular weight of 358.40 (C22H18N2O3); MS (ESI): 359 ([M+H]+), was obtained in this way.

reactant | 1-(2,2-dimethoxyethyl)-3-(4-methoxyphenyl)-1-(4-phenoxy-phenyl)urea | 6.8 g | COC(CN(C(=O)NC1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC1=CC=CC=C1)OC | C24H26N2O5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-(4-Methoxyphenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | COC1=CC=C(C=C1)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C22H18N2O3
